US08252935B2
c) 4-Methyl-2-[5-(6-methyl-piperidin-2-yl)-4′-trifluoromethyl-biphenyl-3-yl]-pentanoic acid ethyl ester
A solution of 4-Methyl-2-[5-(6-methyl-pyridin-2-yl)-4′-trifluoromethyl-biphenyl-3-yl]-pentanoic acid ethyl ester, compound 6b (161 mg, 0.35 mmol) in MeOH (12 mL), platinum oxide (8.0 mg, 0.35 mmol) and 4N HCl/dioxane (97.3 μL) was hydrogenated at 40 psi for 6 hours. The reaction mixture was filtered through celite, washed with MeOH and concentrated in vacuo. The residue was partitioned between dichloromethane/Na2CO3 and extracted 3×, dried over MgSO4, filtered and concentrated to give the product as a pink oil (202 mg, quant.) (M+H) 461.56, Found 462.3.

reactant | 4-Methyl-2-[5-(6-methyl-pyridin-2-yl)-4′-trifluoromethyl-biphenyl-3-yl]-pentanoic acid ethyl ester | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1=NC(=CC=C1)C)C1=CC=C(C=C1)C(F)(F)F)=O | C27H28F3NO2
reactant | HCl dioxane | 4N, 97.3 μL | Cl.O1CCOCC1
solvent | MeOH | 12 mL | CO | CH4O
catalyst | platinum oxide | 0.35 mmol, 8.0 mg | [Pt]=O
product | 4-Methyl-2-[5-(6-methyl-piperidin-2-yl)-4′-trifluoromethyl-biphenyl-3-yl]-pentanoic acid ethyl ester | 202 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1NC(CCC1)C)C1=CC=C(C=C1)C(F)(F)F)=O | C27H34F3NO2
